US08404736B2
Step 2 2-Oxo-1-(4-trifluoromethyl-benzyl)-2,3-dihydro-1H-indole-7-carboxylic acid
A mixture 2.8 g of 7-bromo-1-(4-trifluoromethylbenzyl)-1,3-dihydro-indol-2-one, 0.70 g of PdCl2dppf.CH2Cl2, and 2.34 ml of Et3N in 75 ml of 2:1 DMSO/MeOH was heated under CO (balloon pressure) at 75° C. for 24 h. The reaction mixture was poured into 400 ml of 1:1 heaxan/EtOAc and stirred with 200 ml of water for 4 h. The organic layer was washed with 150 ml of brine and dried over Na2SO4, filtered through a pad of silica gel, and concentrated. The residue was dissolved in 60 ml THF, 20 ml of MeOH and 20 ml of water, followed by 30 ml of 1N aqueous LiOH solution. After stirring for 5 h at room temperature, 5 ml of AcOH was added and the mixture was extracted with 250 ml of EtOAc. The organic layer was washed with 50 ml of brine and dried over Na2SO4, filtered, and concentrated. The residue was swished from 50 ml of 1:1 hexane/EtOAc to give 1.2 g of the title compound as a light brown solid.

reactant | 7-bromo-1-(4-trifluoromethylbenzyl)-1,3-dihydro-indol-2-one | 2.8 g | BrC=1C=CC=C2CC(N(C12)CC1=CC=C(C=C1)C(F)(F)F)=O | C16H11BrF3NO
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | Et3N | 2.34 ml | CCN(CC)CC | C6H15N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMSO MeOH | 75 ml | CS(=O)C.CO
solvent | water | 200 ml | O | H2O
product | 2-Oxo-1-(4-trifluoromethyl-benzyl)-2,3-dihydro-1H-indole-7-carboxylic acid | 1.2 g | O=C1N(C2=C(C=CC=C2C1)C(=O)O)CC1=CC=C(C=C1)C(F)(F)F | C17H12F3NO3
